US04079143
1-Imino-2-(1,2,4-triazol-1-yl)ethyl Methyl Ether (Compound 2)
1,2,4-Triazole (3.45 g) was added to a sodium methoxide in methanol [prepared from sodium (1.15 g) and methanol (40 ml)], and the mixture was refluxed for 1 hour, and cooled to 25° C; chloroacetonitrile (3.78 g) was then added and the mixture was refluxed for a further 6 hours. The solution was filtered and the solvent removed in vacuo. The resultant mixture was dissolved in petroleum ether (50 ml; b.p. 40°-60° C) and the solution filtered to remove unreacted 1,2,4-triazole. Removal of the solvent in vacuo gave a residue which on distillation gave the title compound.

reactant | 1,2,4-Triazole | 3.45 g | N1N=CN=C1 | C2H3N3
reactant | sodium methoxide | C[O-].[Na+]
reactant | chloroacetonitrile | 3.78 g | ClCC#N | C2H2ClN
solvent | methanol | 40 ml, 1.15 g | CO | CH4O
product | 1-Imino-2-(1,2,4-triazol-1-yl)ethyl Methyl Ether | COC(CN1N=CN=C1)=N | C5H8N4O
